US07691882B2
4-((E)-2-furan-2-yl-vinyl)-benzoic acid ethyl ester
60% Sodium hydride (0.48 g, 12 mmol) was suspended in anhydrous tetrahydrofuran (10 mL) under nitrogen atmosphere, and diethyl 4-ethoxycarbonyl benzylphosphonate (3.6 g, 12 mmol) prepared from ethyl 4-bromomethylbenzoate and triethylphosphite according to the methods as similar to those of Manufacturing Example 93-1-1 was added at room temperature and stirred for 30 minutes at room temperature. Furfural (1 g, 10.4 mmol) was then added at room temperature, and stirred for 2 hours at room temperature. The reaction mixture was partitioned into water and ethyl acetate on an ice bath (0° C.). The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:20) to obtain the title compound (1.07 g, 42%).

reactant | Sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | ethyl 4-bromomethylbenzoate | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
reactant | Furfural | 10.4 mmol, 1 g | C(C1=CC=CO1)=O | C5H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-((E)-2-furan-2-yl-vinyl)-benzoic acid ethyl ester | 1.07 g, 42% | C(C)OC(C1=CC=C(C=C1)\C=C\C=1OC=CC1)=O | C15H14O3
